* Z:\mnt\design.r\spice\examples\1550LCS8.asc
C1 N002 0 .1µ
C2 N004 N003 .1µ
V1 IN 0 4.5
C3 OUT 0 10µ
XU1 IN IN N003 OUT N004 0 N002 N001 LTC1550LCS8
R1 N001 OUT 3K
R2 0 N001 1K
Rload OUT 0 1K
.tran .5m startup
.lib LTC1550LCS8.sub
.backanno
.end
